US05013741
N-[(4-Fluorophenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.0 g) was refluxed in 400 ml of toluene that contained 3.5 g of morpholine and 3.10 g of 4-fluorobenzaldehyde that had been freshly washed in K2CO3. The reaction mixture was refluxed over two (2) nights and then concentrated, purified by flash chromatography (20% EtOAc/CH2Cl2) and recrystallized from dichloromethane/pentane to give 2.20 g of analytically pure product, m.p. 161°-163° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.0 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | 3.5 g | N1CCOCC1 | C4H9NO
reactant | 4-fluorobenzaldehyde | 3.10 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Fluorophenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine | FC1=CC=C(C=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C20H17FN2
